US04254135
Trans-N-(4-hydroxy-3-pyrrolidinyl)benzamide
A mixture of trans-N-(1-benzyl-4-hydroxy-3-pyrrolidinyl)benzamide and palladium-on-charcoal catalyst is hydrogenated at 60° C. for 4 hrs. to obtain the title compound.

reactant | trans-N-(1-benzyl-4-hydroxy-3-pyrrolidinyl)benzamide | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)O)NC(C1=CC=CC=C1)=O | C18H20N2O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | Trans-N-(4-hydroxy-3-pyrrolidinyl)benzamide | O[C@H]1[C@@H](CNC1)NC(C1=CC=CC=C1)=O | C11H14N2O2
